US06455507B1
a) (3S,5S,6R)-5,6-Dichloro-1-(tetrahydro-5-hydroxy-6-(hydroxymethyl)-2H-pyran-3-yl)-1H-benzimidazole
2R,4-α-R,7R,8-α-S-perhydro-7-hydroxy-2-phenylpyrano(3,2-D)1,3)dioxin (Tetrahedron Letters, 1996, 8147 and references cited therein) (2.50 g, 10.6 mmol), triphenylphosphine (Aldrich, 4.16 g, 15.87 mmol as 99%) and 5,6-dichlorobenzimidazole (Townsend and Revankar, Chem. Rev. 1970, 70:389, and references cited therein) (3.00 g, 15.87 mmol) were stirred in anhydrous tetrahydrofuran (50 ml) at 0° C. (external ice bath) under nitrogen as a solution of diethyl azodicarboxylate (Aldrich, 2.60 ml, 15.87 mmol as 97%) in tetrahydrofuran (10 ml) was added over 30 min. The reaction mixture was allowed to warm to room temperature, stirred 72 hours, then diluted with chloroform (300 ml) and washed with saturated aqueous sodium bicarbonate (100 ml). The organic layer was dried (sodium sulfate), filtered, and the solvents evaporated under reduced pressure. The residual gum was treated with 300 ml of 80% aqueous acetic acid at 80° C. for 1 h. The reaction mixture was diluted with 100 ml of water and extracted with diethyl ether (4×100 ml). The aqueous phase was concentrated and purified by flash chromatography on silica gel 60. The title compound was eluted with 5-25% methanol-chloroform as a white solid (2.20 g, 65%); m.p. 197° C.; 1H-NMR (DMSO-d6, 200 MHz) δ: 8.56, 8.09, 7.99 (s, each 1H), 4.92 (d, J=5.5 Hz, 1H), 4.87 (bs, 1H), 4.69 (t, J=6.3 Hz, 1H), 4.25 (d, J=12 Hz, 1H), 3.91 (dd, J=12.9, 2.7 Hz, 1H), 3.71-2.53 (m, 4H), 2.28-2.25 (m, 1H), 1.97-1.89 (m, 1H).

reactant | dioxin | O1C=COC=C1 | C4H4O2
reactant | triphenylphosphine | 15.87 mmol, 4.16 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5,6-dichlorobenzimidazole | ClC1=CC2=C(N=CN2)C=C1Cl | C7H4Cl2N2
reactant | diethyl azodicarboxylate | 15.87 mmol, 2.60 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | (3S,5S,6R)-5,6-Dichloro-1-(tetrahydro-5-hydroxy-6-(hydroxymethyl)-2H-pyran-3-yl)-1H-benzimidazole | ClC1=CC2=C(N(C=N2)[C@@H]2CO[C@@H]([C@H](C2)O)CO)C=C1Cl | C13H14Cl2N2O3
